US05998436
Synthesis of 7-[3-(ethylamino)azetidin-1-yl]-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 310 mg of N,N-dimethylformamide were added 100 mg of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 70 mg of 3-(ethylamino)azetidine dihydrochloride, and 150 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 15 minutes. After adding 1 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 107 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 310 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | 3-(ethylamino)azetidine dihydrochloride | 70 mg | Cl.Cl.C(C)NC1CNC1
reactant | N-methylpyrrolidine | 150 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 7-[3-(ethylamino)azetidin-1-yl]-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 107 mg | C(C)NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O)F | C20H17ClF3N5O3
